US06451814B1
4-[4-(2-{[(2S)-3-(2-Chloro-4-hydroxyphenoxy)-2-hydroxypropyl]amino}ethyl)anilino]-N-octyl-1-piperidinecarboxamide
4-[4-(2-{[(2S)-3-(4-{[tert-Butyl(diphenyl)silyl]oxy}-2-chlorophenoxy)-2-hydroxypropyl]amino}ethyl)anilino]-N-octyl-1-piperidinecarboxamide(0.185 g, 0.23 mmol) was reacted according to Procedure H (eluant: 10:1 going to 5:1 chloroform-methanol containing 2% triethylamine) to give the title compound (0.053 g, 0.09 mmol).

reactant | 4-[4-(2-{[(2S)-3-(4-{[tert-Butyl(diphenyl)silyl]oxy}-2-chlorophenoxy)-2-hydroxypropyl]amino}ethyl)anilino]-N-octyl-1-piperidinecarboxamide | 0.23 mmol, 0.185 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC(=C(OC[C@H](CNCCC2=CC=C(NC3CCN(CC3)C(=O)NCCCCCCCC)C=C2)O)C=C1)Cl | C47H65ClN4O4Si
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 4-[4-(2-{[(2S)-3-(2-Chloro-4-hydroxyphenoxy)-2-hydroxypropyl]amino}ethyl)anilino]-N-octyl-1-piperidinecarboxamide | 0.09 mmol, 0.053 g | ClC1=C(OC[C@H](CNCCC2=CC=C(NC3CCN(CC3)C(=O)NCCCCCCCC)C=C2)O)C=CC(=C1)O | C31H47ClN4O4
